US07728025B2
(Step 2) Production of 2-(6-(4-methanesulfonyl-phenoxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-pyrrolidine-1-carboxylic acid dimethylamide
1 ml of dimethylamine (2.0 M tetrahydrofuran solution) was added to a tetrahydrofuran (1 ml) solution of 20 mg of 4-nitrophenyl 2-(6-(4-methanesulfonyl-phenoxy)-2-pyridin-2-yl-2,3-dihydro-1H-benzimidazol-5-yl)-pyrrolidin-1-carboxylate, and the reaction liquid was stirred overnight in a sealed tube at 100° C. The reaction solvent was evaporated away under reduced pressure, and the resulting residue was purified through reversed-phase middle-pressure liquid chromatography [ODS-AS-360-CC (by YMC), mobile phase: water-acetonitrile-0.1% trifluoroacetic acid]. The solvent of the resulting fraction was diluted with ethyl acetate, washed with aqueous saturated sodium bicarbonate, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure to obtain the entitled compound as a white solid.

reactant | dimethylamine | 2.0 M, 1 ml | CNC | C2H7N
reactant | 4-nitrophenyl 2-(6-(4-methanesulfonyl-phenoxy)-2-pyridin-2-yl-2,3-dihydro-1H-benzimidazol-5-yl)-pyrrolidin-1-carboxylate | 20 mg | CS(=O)(=O)C1=CC=C(OC=2C(=CC3=C(NC(N3)C3=NC=CC=C3)C2)C2N(CCC2)C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C30H27N5O7S
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 2-(6-(4-methanesulfonyl-phenoxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-pyrrolidine-1-carboxylic acid dimethylamide | CN(C(=O)N1C(CCC1)C1=CC2=C(N=C(N2)C2=NC=CC=C2)C=C1OC1=CC=C(C=C1)S(=O)(=O)C)C | C26H27N5O4S
